US07064124B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoyl]-4-methoxyaniline
p-Methoxyaniline (0.250 g, 2.03 mmol), triethylamine (0.206 g, 2.03 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.344 g, 2.03 mmol) were added to a methylene chloride solution (40 ml) of 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid (0.460 g, 1.02 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (ethyl acetate:hexane=1:2) and recrystallized from ether to obtain the titled compound (0.211 g, 0.379 mmol, 37%).

reactant | p-Methoxyaniline | 2.03 mmol, 0.250 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 2.03 mmol, 0.206 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 2.03 mmol, 0.344 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid | 1.02 mmol, 0.460 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O7
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoyl]-4-methoxyaniline | 0.379 mmol, 0.211 g, 37% | COC=1C(=C(CC=2C=CC(=C(C(=O)NC3=CC=C(C=C3)OC)C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C33H35NO7
